US08106221B2
Step 7. (S)-Methyl 3-(6-chloro-1-(2-(methylamino)ethyl)-3-oxoisoindolin-1-yl)propylcarbamate
To a solution of (S)-tert-butyl 2-(1-(3-aminopropyl)-6-chloro-3-oxoisoindolin-1-yl)ethyl(methyl)carbamate trifluoroacetic acid salt (71 mg, 0.14 mmol) in dry dichloromethane (10 mL) at room temperature was added triethylamine (56 mg, 0.56 mmol) and methylchloroformate (26 mg, 0.3 mmol). After stirring for 1.5 h, methanol (2 mL) was added. The reaction mixture was stirred for 2 h and then concentrated. The residue was dissolved in dichloromethane (3 mL) and added trifluoroacetic acid (5 mL). After stirring for 2 h, the solvent and excess reagent were evaporated under reduced pressure. The residue was purified by preparative HPLC (C-18 column, 5 to 70% CH3CN in H2O containing 0.01% CF3CO2H over 20 min, 20 mL min−1) to afford product and a minor amount of (R) isomer as TFA salt (45 mg, 69%). 1H NMR (CD3OD) δ 7.73 (d, J=7.9 Hz, 1H), 7.65 (d, J=1.8 Hz, 1H), 7.56 (dd, J=8.2, 1.2 Hz, 1H), 3.58 (s, 3H), 3.00 (t, J=7.0 Hz, 2H), 2.80-2.88 (m, 1H), 2.60 (s, 3H), 2.40-2.49 (m, 1H), 2.26-2.37 (m, 2H) 1.90-2.02 (m, 2H) 1.24-1.38 (m, 1H) 0.83-0.96 (m, 1H); MS EI m/z 340 (M+H)+.

reactant | (S)-tert-butyl 2-(1-(3-aminopropyl)-6-chloro-3-oxoisoindolin-1-yl)ethyl(methyl)carbamate trifluoroacetic acid salt | 0.14 mmol, 71 mg | FC(C(=O)O)(F)F.NCCC[C@]1(NC(C2=CC=C(C=C12)Cl)=O)CCN(C(OC(C)(C)C)=O)C
reactant | triethylamine | 0.56 mmol, 56 mg | C(C)N(CC)CC | C6H15N
reactant | methylchloroformate | 0.3 mmol, 26 mg | COC(=O)Cl | C2H3ClO2
reactant | TFA | 45 mg | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | methanol | 2 mL | CO | CH4O
product | (S)-Methyl 3-(6-chloro-1-(2-(methylamino)ethyl)-3-oxoisoindolin-1-yl)propylcarbamate | ClC1=CC=C2C(N[C@](C2=C1)(CCNC)CCCNC(OC)=O)=O | C16H22ClN3O3
